US05574062
A mixture of 2.72 g (20.0 mmol) of 4-ethylbenzyl alcohol (purchased from Aldrich) and 50 ml of 47% hydrobromic acid (purchased from Wako Junyaku Kogyo) was stirred at room temperature for 30 minutes vigorously and extracted with hexane to give 3.98 g of 4-ethylbenzyl bromide as a colorless oil. Subsequently, to a solution of 1.96 g (40.0 mmol) of sodium cyanide (purchased from Kokusan Kagaku) in 20 ml of dimethyl sulfoxide (purchased from Aldrich) heated at 50 ° C. was added 3.98 g of the above 4-ethylbenzylbromide, the solution was stirred at ambient temperature for 3 hours, the resultant reaction mass was dissolved in water and extracted with hexane, and hexane was removed to give 2.70 g (yield: 93.1%) of 4-ethylphenylacetonitrile as a light yellow oil.

reactant | sodium cyanide | 40.0 mmol, 1.96 g | [C-]#N.[Na+]
reactant | 4-ethylbenzylbromide | 3.98 g | C(C)C1=CC=C(CBr)C=C1 | C9H11Br
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-ethylphenylacetonitrile | 2.70 g, yield: 93.1% | C(C)C1=CC=C(C=C1)CC#N | C10H11N
